US08957216B2
Step-1: Preparation of methyl 4-mercaptobenzoate
To a solution of 4-mercapto benzoic acid (5 g, 32.4 mmol) in methanol (25 mL) was added catalytic H2SO4 (1-2 drops) and refluxed for 5-6 h. TLC (mobile phase-10% methanol in chloroform Rf. S.M.—0.2, product—0.6) shows absence of starting material and formation of product; the methanol was distilled off in vacuo and the residue was diluted with ethyl acetate. The organic layer was washed with water (2×25 mL) followed by 10% aq. sodium bicarbonate solution. The organic layer was dried over Na2SO4 and concentrated in vacuo to obtained the product as an off-white solid (Yield-5 g).

reactant | 4-mercapto benzoic acid | 32.4 mmol, 5 g | SC1=CC=C(C(=O)O)C=C1 | C7H6O2S
reactant | methanol | 25 mL | CO | CH4O
catalyst | H2SO4 | 1-2 drops | OS(=O)(=O)O | H2O4S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | methyl 4-mercaptobenzoate | Yield-5 g, Yield: 97.7% | SC1=CC=C(C(=O)OC)C=C1 | C8H8O2S
